US06423716B1
1-Phenyl-4-(1-piperazinyl)-1H-pyrazolo[3,4-d]pyrimidine
To an isopropanol solution (10 mL) of piperazine (3.74 g, 43.4 mmol), 4-chloro-1-phenylpyrazolo[3,4-d]pyrimidine (100 g, 4.34 mmol) described in J. Org. Chem., 21: 1240-1256 (1956) was added, followed by heating under reflux for 6 hours. The reaction solution was concentrated, saturated brine was added thereto, the mixture was extracted with chloroform, the extract was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated to give the target compound (1.07 g, 3.82 mmol).

reactant | piperazine | 43.4 mmol, 3.74 g | N1CCNCC1 | C4H10N2
reactant | 4-chloro-1-phenylpyrazolo[3,4-d]pyrimidine | 4.34 mmol, 100 g | ClC1=C2C(=NC=N1)N(N=C2)C2=CC=CC=C2 | C11H7ClN4
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 1-Phenyl-4-(1-piperazinyl)-1H-pyrazolo[3,4-d]pyrimidine | 3.82 mmol, 1.07 g, Yield: 88% | C1(=CC=CC=C1)N1N=CC=2C1=NC=NC2N2CCNCC2 | C15H16N6
